US08466155B2
a) (1R,2R)-2-(tert-butyl-dimethyl-silanyloxy)-indan-1-ylamine
(1R,2R)-1-amino-2-indanol (2.00 g) is suspended in 20 mL DCM and combined with triethylamine (3.61 mL) as well as DMAP (0.32 g). Then tert-butyldimethylchlorosilane (4.04 g in 2 mL CH2Cl2) is added. The reaction mixture is stirred for 16 h at RT and, once the reaction is complete, it is mixed with water, extracted with CH2Cl2 and the organic phase is freed from the solvent using the rotary evaporator. The residue is taken up in MeOH and isolate is added. After elimination of the solvent once again the mixture is purified by normal phase chromatography (CH2Cl2/EA). The product-containing fractions are combined and freed from the solvent using the rotary evaporator.

reactant | (1R,2R)-1-amino-2-indanol | 2.00 g | N[C@H]1[C@@H](CC2=CC=CC=C12)O | C9H11NO
reactant | triethylamine | 3.61 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylchlorosilane | 2 mL, 4.04 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | water | O | H2O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.32 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | (1R,2R)-2-(tert-butyl-dimethyl-silanyloxy)-indan-1-ylamine | C(C)(C)(C)[Si](O[C@H]1[C@@H](C2=CC=CC=C2C1)N)(C)C | C15H25NOSi
